US09145415B2
To 2,2,3-trifluoro-3-(3-nitrophenyl)propyl trifluoromethanesulfonate (C32, 709 mg) and potassium phthalimide (1.07 g), N-methylpyrrolidone (4 mL) was added at room temperature, and the mixture was stirred at 80° C. for 3 hours. The reaction mixture was cooled to room temperature, and then ethyl acetate and saturated aqueous sodium hydrogencarbonate were added to the mixture. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 30% hexane in ethyl acetate) to obtain 2-(2,2,3-trifluoro-3-(3-nitrophenyl)propyl)isoindoline-1,3-dione (C33, 531 mg).

reactant | 2,2,3-trifluoro-3-(3-nitrophenyl)propyl trifluoromethanesulfonate | 709 mg | FC(S(=O)(=O)OCC(C(C1=CC(=CC=C1)[N+](=O)[O-])F)(F)F)(F)F | C10H7F6NO5S
reactant | potassium phthalimide | 1.07 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | N-methylpyrrolidone | 4 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,2,3-trifluoro-3-(3-nitrophenyl)propyl)isoindoline-1,3-dione | 531 mg | FC(CN1C(C2=CC=CC=C2C1=O)=O)(C(C1=CC(=CC=C1)[N+](=O)[O-])F)F | C17H11F3N2O4
